US06762180B1
(11) 4-[N-(2-dimethylamino-ethyl)-N-(phenyl-acetyl)-amino]-nitrobenzene
Prepared from 4-(2-dimethylamino-ethylamino)-nitrobenzene and phenylacetyl-chloride

reactant | 4-(2-dimethylamino-ethylamino)-nitrobenzene | CN(CCNC1=CC=C(C=C1)[N+](=O)[O-])C | C10H15N3O2
reactant | phenylacetyl-chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | 4-[N-(2-dimethylamino-ethyl)-N-(phenyl-acetyl)-amino]-nitrobenzene | CN(CCN(C(CC1=CC=CC=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])C | C18H21N3O3
